US04851535
In 3 ml of N,N-diemthylformamide was suspended 120 mg of 3-aminopyrrolidine dihydrochloride, and 250 mg of triethylamine was added to the resulting suspension, after which the resulting mixture was subjected to reaction at room temperature for 5 minutes. Thereafter, 300 mg of methyl 2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinate was added to the reaction mixture, and the resulting mixture was subjected to reaction at room temperature for 1.5 hours. To the reaction mixture were added 10 ml of chloroform and 10 ml of water, and the organic layer was separated, washed successively with 10 ml of water and 10 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. Subsequently, 100 mg of acetic anhydride was added to the organic layer, and the resulting mixture was subjected to reaction at room temperature for 10 minutes, after which the solvent was removed by distllation under reduced pressure. To the crystalline material thus obtained was added 5 ml of diethyl ether, and crystals were collected by filtration to obtain 210 mg (yield 82.4%) of methyl 6-(3-acetylamino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinate. The physical properties of this compound were identical with those of the compound obtained in Example 9.

reactant | 3-aminopyrrolidine dihydrochloride | 120 mg | Cl.Cl.NC1CNCC1
reactant | triethylamine | 250 mg | C(C)N(CC)CC | C6H15N
reactant | methyl 2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinate | 300 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)OC)C=C(C(=N1)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)F | C22H19F3N2O5S
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | water | 10 ml | O | H2O
product | methyl 6-(3-acetylamino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinate | 210 mg, yield 82.4% | C(C)(=O)NC1CN(CC1)C1=NC(=C(C(=O)OC)C=C1F)NC1=C(C=C(C=C1)F)F | C19H19F3N4O3
